US08557834B2
N-({1-Cyclohexyl-6-hydroxy-2,4-dioxo-3-[(2,4,6-trimethylphenyl)methyl]-1,2,3,4-tetrahydro-5-pyrimidinyl}carbonyl)glycine
A mixture of ethyl N-[(1-cyclohexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonyl]glycinate (340 mg, 1.0 mmoles), pulv. potassium carbonate (1.0 g, 7.24 mmoles) and 2,4,6-trimethylbenzyl chloride (339 mg, 1.5 mmoles) in dimethylacetamide (5 mL) was vigorously stirred at 100° C. for 3 hours. The mixture was poured into 1 molar hydrochloric acid and extracted with ethyl acetate. The organic solution was washed with 1 molar hydrochloric acid and evaporated. The residue was purified by flash chromatography (10-50% ethyl acetate in hexane), the required fractions evaporated, dissolved in ethanol (5 mL) and 1 molar sodium hydroxide solution (1.0 mL) and 6 molar sodium hydroxide solution (1.0 mL) added. The mixture was stirred overnight, acidified and extracted with ethyl acetate (×2), the combined extracts washed with 1 molar hydrochloric acid, dried and evaporated to give the title compound (61 mg, 13%). 1H NMR (400 MHz, DMSO-d6) δ ppm 13.07 (s, 1 H), 10.07 (s, 1 H), 6.77 (s, 2 H), 4.99 (s, 2 H), 4.59 (t, J=12.00 Hz, 1 H), 4.08-4.14 (m, 2 H), 2.21-2.29 (m, 8 H), 2.14-2.20 (m, 4 H), 1.77 (d, J=12.63 Hz, 2 H), 1.52-1.64 (m, 3 H), 1.27 (q, J=12.88 Hz, 2 H), 1.05-1.17 (m, 1 H).

reactant | ethyl N-[(1-cyclohexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonyl]glycinate | 1.0 mmoles, 340 mg | C1(CCCCC1)N1C(NC(C(=C1O)C(=O)NCC(=O)OCC)=O)=O | C15H21N3O6
reactant | potassium carbonate | 7.24 mmoles, 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4,6-trimethylbenzyl chloride | 1.5 mmoles, 339 mg | CC1=C(CCl)C(=CC(=C1)C)C | C10H13Cl
reactant | hydrochloric acid | 1 molar | Cl | ClH
solvent | dimethylacetamide | 5 mL | CC(=O)N(C)C | C4H9NO
product | N-({1-Cyclohexyl-6-hydroxy-2,4-dioxo-3-[(2,4,6-trimethylphenyl)methyl]-1,2,3,4-tetrahydro-5-pyrimidinyl}carbonyl)glycine | 61 mg, 13% | C1(CCCCC1)N1C(N(C(C(=C1O)C(=O)NCC(=O)O)=O)CC1=C(C=C(C=C1C)C)C)=O | C23H29N3O6
